US07834051B2
4-[(4R,5S)-5-ethyl-3,3-difluoro-4-hydroxy-2-oxopyrrolidin-1-yl]-2-methoxybenzonitrile
Using 4-bromo-2-methoxybenzonitrile (2.14 g), (4R,5S)-5-ethyl-3,3-difluoro-4-hydroxypyrrolidin-2-one (2.00 g), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (954 mg), tris(dibenzylideneacetone)dipalladium(0) (554 mg) and cesium carbonate (4.84 g), and in the same manner as in Example 62, the title compound was obtained as a white powder (yield: 895 mg, 30%).

reactant | 4-bromo-2-methoxybenzonitrile | 2.14 g | BrC1=CC(=C(C#N)C=C1)OC | C8H6BrNO
reactant | (4R,5S)-5-ethyl-3,3-difluoro-4-hydroxypyrrolidin-2-one | 2.00 g | C(C)[C@H]1[C@H](C(C(N1)=O)(F)F)O | C6H9F2NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 954 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 4.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 554 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(4R,5S)-5-ethyl-3,3-difluoro-4-hydroxy-2-oxopyrrolidin-1-yl]-2-methoxybenzonitrile | C(C)[C@H]1[C@H](C(C(N1C1=CC(=C(C#N)C=C1)OC)=O)(F)F)O | C14H14F2N2O3
